US07569583B2
(1R,9aR)-1-(4-Nitrophenoxymethyl)octahydroquinolizine
(1R,9aR)-1-(Octahydroquinolizin-1-yl)methanol (2.5 g) was added to a suspension of sodium hydride (60% in oil, 710 mg) in DMF (20 ml) and, after gas evolution ceased, 4-fluoronitrobenzene (2.51 g) was added. After 2 hours, the reaction mixture was hydrolyzed with water and then partitioned between ethyl acetate and dilute hydrochloric acid. The aqueous phase was made alkaline with sodium hydroxide solution and extracted twice with ethyl acetate. The two ethyl acetate phases were combined, dried over magnesium sulfate and concentrated. The product with the molecular weight of 290.37 (C16H22N2O3); MS (ESI): 291 (M+H+) was obtained in this way.

reactant | (1R,9aR)-1-(Octahydroquinolizin-1-yl)methanol | 2.5 g | [C@H]1(CCCN2CCCC[C@H]12)CO | C10H19NO
reactant | sodium hydride | 710 mg | [H-].[Na+]
reactant | 4-fluoronitrobenzene | 2.51 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (1R,9aR)-1-(4-Nitrophenoxymethyl)octahydroquinolizine | [N+](=O)([O-])C1=CC=C(OC[C@@H]2CCCN3CCCC[C@H]23)C=C1 | C16H22N2O3
